US04414391
n-Butyl 2,3-dibromopropionate (144 g, 0.5 mole) containing p-methoxyphenol (0.5 g) was stirred vigorously under nitrogen and at room temperature, whilst 20% w/v aqueous caustic potash solution was slowly added. The course of the dehydrobromination was constantly monitored by gas-liquid chromatography. From time to time the reaction mixture was allowed to separate and the almost neutral aqueous phase discarded, in order to maintain that effective concentration of the added base. When more than 95% of the starting material had been consumed, the reaction was stopped and the lower organic layer run off and washed with water. After drying (Na2SO4), the crude product was distilled to give a main fraction which was n-butyl 2-bromoacrylate (yield 72%), bp 92°/17 mmHg.

reactant | n-Butyl 2,3-dibromopropionate | 0.5 mole, 144 g | BrC(C(=O)OCCCC)CBr | C7H12Br2O2
reactant | p-methoxyphenol | 0.5 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | caustic potash | [OH-].[K+]
product | n-butyl 2-bromoacrylate | yield 72% | BrC(C(=O)OCCCC)=C | C7H11BrO2
